US06169090A
2-Ethyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid (3,5-dichloropyridin-4-yl)amide
Starting from 2-ethyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid 4-nitrophenyl ester (0.20 g) and 4-amino-3,5-dichloropyridine (0.11 g). Purification by trituration with ether gave the title compound (0.16 g) as a white solid.

reactant | 2-ethyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid 4-nitrophenyl ester | 0.20 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)C=1C2=C(C(=NC1)OC)OC(=C2)CC | C17H14N2O6
reactant | 4-amino-3,5-dichloropyridine | 0.11 g | NC1=C(C=NC=C1Cl)Cl | C5H4Cl2N2
product | 2-Ethyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid (3,5-dichloropyridin-4-yl)amide | 0.16 g | ClC=1C=NC=C(C1NC(=O)C=1C2=C(C(=NC1)OC)OC(=C2)CC)Cl | C16H13Cl2N3O3
